US05856583
A 2 liter round-bottomed flask was charged with magnesium turnings (12.2 g, 0.50 mole), methanol (133 ml), toluene (60 ml), and magnesium methoxide solution (10 ml of an 8% w/w solution of magnesium methoxide in methanol). The reaction mixture was heated to 45° C. at which point the magnesium dissolution became vigorous. The temperature of the reaction mixture was maintained between 45° and 55° C. Para-dodecyl phenol (128.0 g, 0.50 mol) dissolved in toluene (125 ml) was added in one portion to the reaction mixture which was then maintained at 65° C. for one hour. Glacial acetic acid (30.1 g, 0.50 mol) was added over a 1 hour period, while maintaining the reaction mixture at reflux (65°-66° C.). The reaction flask was then rigged for fractional distillation and the methanol/toluene azeotrope was distilled off until an internal temperature of 85° C. was reached. A total of 117 g of distillate, assaying 65% methanol and 35% toluene, was collected. Toluene (130 g) was added to the reaction mixture in one portion. Paraformaldehyde (45.0 g) slurried in toluene (90 g) was then added over a 90 minute period. During the addition, the reaction mixture was maintained at a temperature of 85°-90° C. allowing a continuous distillation of the volatile reaction by-products. When the paraformaldehyde addition was complete, the reaction mixture was maintained at 90° C. for an additional 90 minutes. The reaction mass was then cooled to 35° C. and 500 ml of 20% v/v sulfuric acid was added. The hydrolysis mass was then stirred for an additional 45 minutes. After phase separation, the organic phase was washed twice with 200 ml portions of water. The washed organic phase was then separated, dried and rendered free of the solvent to yield crude 5-dodecyl salicylaldehyde. A 65% yield was obtained.

reactant | magnesium | 0.50 mole, 12.2 g | [Mg] | Mg
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | Para-dodecyl phenol | 0.50 mol, 128.0 g | C(CCCCCCCCCCC)C1=CC=C(C=C1)O | C18H30O
reactant | acetic acid | 0.50 mol, 30.1 g | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 133 ml | CO | CH4O
product | 5-dodecyl salicylaldehyde | 65% yield | C(CCCCCCCCCCC)C1=CC=C(C(C=O)=C1)O | C19H30O2
